US05780465
3. Preparation of 5-Bromo-4-methoxypyrimidine
Twenty grams (0.13 mol) of 5-bromo-4-chloropyrimidine were dissolved in 100 mL of methanol and the solution was cooled to 5° C. by means of an ice bath. A solution consisting of 29.5 mL of a 25 percent solution of sodium methoxide in methanol and 20 mL of methanol was added with stirring and cooling. The temperature rose to 37° C. and then began to fall. The mixture was stirred for 4 hours at ambient temperature and was then diluted with 200 mL of water (which caused the formation of a white precipitate) and 200 mL of dichloromethane (which dissolved the precipitate). The phases were separated and the organic phase was washed with 150 mL of water, dried over sodium sulfate, and concentrated by evaporation under reduced pressure to obtain 18.2 g (93.8 percent of theory) of the title compound as a white crystalline solid melting at 73°-75° C.

reactant | 5-bromo-4-chloropyrimidine | 0.13 mol, Twenty grams | BrC=1C(=NC=NC1)Cl | C4H2BrClN2
reactant | sodium methoxide | C[O-].[Na+]
reactant | dichloromethane | 200 mL | ClCCl | CH2Cl2
solvent | methanol | 100 mL | CO | CH4O
solvent | methanol | 20 mL | CO | CH4O
solvent | water | 200 mL | O | H2O
product | 5-Bromo-4-methoxypyrimidine | BrC=1C(=NC=NC1)OC | C5H5BrN2O
